US04115575
16.3 g of 2,3-dichloro-5-methyl-pyrazine and 100 ml of morpholine are warmed to 100° C. for 6 hours. The reaction mixture is then diluted with 200 ml of ether and again extracted by shaking with water. The ether phase is dried over sodium sulphate and evaporated in a water-pump vacuum. The residue is distilled in a waterpump vacuum. 2-Chloro-3-morpholinyl-5-methyl-pyrazine, boiling point 166°-167° C./15 mm Hg, is thus obtained.

reactant | 2,3-dichloro-5-methyl-pyrazine | 16.3 g | ClC1=NC=C(N=C1Cl)C | C5H4Cl2N2
reactant | morpholine | 100 ml | N1CCOCC1 | C4H9NO
solvent | ether | 200 ml | CCOCC | C4H10O
product | 2-Chloro-3-morpholinyl-5-methyl-pyrazine | ClC1=NC=C(N=C1N1CCOCC1)C | C9H12ClN3O
